US06767909B2
99.2 mg (0.67 mmol) 2-hydroxymethylbenzimidazole was dissolved in 3 ml methanol. Potassium carbonate (103.1 g, 0.75 mmol) and diethylsulfate (442 μl 3.38 mmol) were added to the reaction mixture. Solution was stirred and refluxed overnight. The reaction mixture was then evaporated to dryness and purified on silica using gradient elution (chloroform to 5% methanol in chloroform) to obtain white crystals of 1-ethyl-2-hydroxymethylbenzimidazole, 41 mg (32%).

reactant | 2-hydroxymethylbenzimidazole | 0.67 mmol, 99.2 mg | OCC=1NC2=C(N1)C=CC=C2 | C8H8N2O
reactant | Potassium carbonate | 0.75 mmol, 103.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethylsulfate | 3.38 mmol, 442 μl | C(C)OS(=O)(=O)OCC | C4H10O4S
solvent | methanol | 3 ml | CO | CH4O
product | 1-ethyl-2-hydroxymethylbenzimidazole | C(C)N1C(=NC2=C1C=CC=C2)CO | C10H12N2O
